US08202865B2
Step 2: 2-fluoro-4-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoic acid
A solution of methyl 2-fluoro-4-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoate (16 g; 37 mmol) in THF (400 mL) and MeOH (400 mL) at RT was treated with NaOH (37 mL; 5 M; 184.99 mmol). The reaction mixture was stirred at RT for 12 hours. The reaction mixture was concentrated to give a yellow solid. Water (600 mL) was added and the aqueous phase was washed with EtOAc (250 mL). Then the aqueous phase was acidified with HCl cc until pH 2 and extracted with EtOAc (2×300 mL). Organics were washed with brine, dried over MgSO4 and concentrated affording the title compound as a beige solid (11.66 g, 75%). 1H NMR (DMSO, 400 MHz) δ 13.64 (br s, 1H), 8.33 (d, J=1.41 Hz, 1H), 8.17 (dd, J=7.92 Hz, 1.4 Hz, 1H), 8.13-8.03 (m, 2H), 7.96 (dd, J=11.10 Hz, 1.17 HZ, 1H), 7.43 (d, J=7.91 Hz, 1H), 7.37-7.27 (m, 3H), 7.15 (d, J=7.03 Hz, 1H), 4.25-4.14 (m, 2H), 3.25 (s, 3H), 2.04 (s, 3H). LC/MS (Method B): 419.1 (M+H)+; 417.2 (M−H)−. HPLC: Rt 5.19 min (Purity: 99.2%).

reactant | methyl 2-fluoro-4-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoate | 37 mmol, 16 g | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COC | C25H21FN2O4
reactant | NaOH | 184.99 mmol, 5 M, 37 mL | [OH-].[Na+]
reactant | Water | 600 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | MeOH | 400 mL | CO | CH4O
product | 2-fluoro-4-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoic acid | 11.66 g, 75% | FC1=C(C(=O)O)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COC | C24H19FN2O4
